US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (1.06 g, 3.00 mmol), 4-methoxy-benzylamine (0.521 mL, 4.0 mmol), and K2CO3 (0.967 g, 7.0 mmol) in toluene (7 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.365 g, 33%). GC-MS: m/z 367 (M)+, 336 (M−31)+. 1H NMR (300 MHz, CDCl3): δ (ppm) 3.79 (S, 3H), 4.20 (s, 2H), 4.70 (s, 2H), 6.85 (d, 2H) 7.27 (d, 2H), 7.42 (s, 1H), 7.57 (s, 1H).

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 3.00 mmol, 1.06 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | 4-methoxy-benzylamine | 4.0 mmol, 0.521 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | K2CO3 | 7.0 mmol, 0.967 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-chloro-2-(4-methoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.365 g, 33% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)OC | C16H13BrClNO2
